simple audio test

V_V2 1 0 file gits.wav snd 0 0 1.0 0 0 32
R_R1 1 0 1M

.sndparam test-io.wav 48000 wav24 1.0 0.0 1.0
.sndprint tran  v(1)
.tran 2.08333e-05 2.0 0 2.08333e-05
.op

.control
if $?batchmode
else
  sndparam $inputdir/test-io.wav 48000 wav24 1.0 0.0 1.0
  tran 6.5104166e-07 3.0 0.1 6.5104166e-07
  rusage
  sndprint v(1)
  rusage
end
.endc



.END
